US05591613
1.74 g DL-arginine (50:50) were dissolved in 10 ml water and mixed with 0.21 mg manganese sulfate.H2O, 0.11 mg ascorbic acid and 0.5 mg calf liver L-arginase (Boeringer Mannheim, 97 U/mg. The progress of the reaction was followed with HPLC (amino column; mobile solvent 65:35 acetonitrile:phosphate buffer (pH 6.4). After 6 hours at 25° C., 50% of the original amount of arginine had reacted and a corresponding amount of ornithine had been formed (conversion 100%).

reactant | DL-arginine | 1.74 g | NC(CCCNC(N)=N)C(=O)O | C6H14N4O2
reactant | ascorbic acid | 0.11 mg | O=C1C(O)=C(O)[C@H](O1)[C@@H](O)CO | C6H8O6
reactant | phosphate | pH 6.4 | P(=O)([O-])([O-])[O-]
reactant | arginine | N[C@@H](CCCNC(N)=N)C(=O)O | C6H14N4O2
solvent | water | 10 ml | O | H2O
catalyst | manganese sulfate | 0.21 mg | S(=O)(=O)([O-])[O-].[Mn+2]
solvent | acetonitrile | C(C)#N | C2H3N
product | ornithine | N[C@@H](CCCN)C(=O)O | C5H12N2O2
